US04447425
Bromoethane (1.5 g) was added to a solution of 2β,16β-di-(1-piperidinyl)-5α-androstan-17β-ol acetate (1.0 g) in a mixture of dry dichloromethane (10 ml) and dry diethyl ether (10 ml). The solution was sealed in a pressure bottle and set aside at room temperature for 7.5 h. The solvent was then removed under reduced pressure, without heating, to afford a white solid, which was dissolved in the minimum of dry dichloromethane (8.0 ml) and dry diethyl ether (30 ml) was added to precipitate the crude product (0.3 g). The material from the mother liquor was retreated with bromomethane (1.05 g) in dry dichloromethane (7.0 ml) and dry diethyl ether (7.0 ml), as above, to yield a further quantity (0.3 g) of crude product. The procedure was repeated once again to obtain a final amount (0.25 g) of crude product. The three crops were combined and crystallised from dichloromethaneacetone to afford 1-[17β-acetyloxy-2β-(1-piperidinyl)-5α-androstan-16β-yl]-1-methyl-piperidinium bromide (0.30 g), m.p. 213°-219° C.; [α]D -19.5° (c 0.36 in CHCl3).

reactant | Bromoethane | 1.5 g | BrCC | C2H5Br
reactant | 2β,16β-di-(1-piperidinyl)-5α-androstan-17β-ol acetate | 1.0 g | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](C[C@@H]1N1CCCCC1)[C@@H]1CC[C@H]3CC[C@H](C[C@]3(C)[C@H]1CC2)N2CCCCC2 | C31H52N2O2
solvent | dichloromethane | 8.0 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-[17β-acetyloxy-2β-(1-piperidinyl)-5α-androstan-16β-yl]-1-methyl-piperidinium bromide | 0.30 g | [Br-].C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](C[C@@H]1[N+]1(CCCCC1)C)[C@@H]1CC[C@H]3CC[C@H](C[C@]3(C)[C@H]1CC2)N2CCCCC2 | InChI=1S/C32H55N2O2.BrH/c1-23(35)36-30-29(34(4)19-9-6-10-20-34)21-28-26-14-12-24-11-13-25(33-17-7-5-8-18-33)22-32(24,3)27(26)15-16-31(28,30)2;/h24-30H,5-22H2,1-4H3;1H/q+1;/p-1/t24-,25-,26-,27+,28+,29+,30+,31+,32+;/m1./s1
